US08022062B2
2-Benzyloxyethylamine:
Dissolve (2-benzyloxyethyl)-carbamic acid tert-butyl ester (15 g) in DCM (50 mL), add trifluoroacetic acid (20 mL) and stir at 0° C. for 3 h. Concentrate and dissolve the residue in a minimal amount of DCM. Purify by chromatography on silica gel eluting sequentially with hexane/EtOAc (4:1 and 1:1), EtOAc and 2M ammonia in methanol to give the title compound (8.3 g, 85%).

reactant | (2-benzyloxyethyl)-carbamic acid tert-butyl ester | 15 g | C(C)(C)(C)OC(NCCOCC1=CC=CC=C1)=O | C14H21NO3
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Benzyloxyethylamine | 8.3 g, 85% | C(C1=CC=CC=C1)OCCN | C9H13NO
